US08283475B2
N-{2-[6-Chloro-4-(4-trifluoromethylphenyl)-2H-benzotriazol-2-yl]-1-cyano-1-methylethyl}-4-trifluoromethoxybenzamide (compound No 1.068)
N-[2-(4-Bromo-6-chloro-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (120 mg) described in Example 38, bis(tri-t-butylphosphine)palladium (20 mg), bis(dibenzylideneacetone)palladium (20 mg), potassium fluoride (42 mg) and 4-trifluoromethylphenyl boronic acid (45 mg) in THF were stirred at room temperature for 3 days. The mixture was concentrated under reduced pressure to give a residue that was purified by chromatography (SiO2, heptane/EA) to afford a one to one mixture of title compound and starting material [110 mg, Rf=0.3 (3:7 EA/heptane)]. This mixture was further purified by semi-preparative liquid chromatography (methanol/water) to afford the title compound as pure solid (35 mg, 26%). MS (ES): M/Z [M+H]=568. NMR: (400 MHz, DMSO-d6): 1.74 (s, 3H), 1.84 (s, 1H), 5.39 (d, J=13.3 Hz, 1H), 5.64 (d, J=13.3 Hz, 1H), 7.41 (d, J=8.0 Hz, 2H), 7.60 (d, J=8.3 Hz, 2H), 7.84 (d, J=1.8 Hz, 1H), 7.93 (d, J=8.9 Hz, 2H), 8.12 (d, J=8.1 Hz, 2H) and 8.23 (d, J=1.8 Hz, 1H). 19F NMR (376 MHz, DMSO-d6): −61.8 (s, 3F) and −57.3 (s, 3F).

reactant | N-[2-(4-Bromo-6-chloro-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 120 mg | BrC1=CC(=CC2=NN(N=C21)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)Cl | C18H12BrClF3N5O2
reactant | potassium fluoride | 42 mg | [F-].[K+]
reactant | 4-trifluoromethylphenyl boronic acid | 45 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium | 20 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(dibenzylideneacetone)palladium | 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-{2-[6-Chloro-4-(4-trifluoromethylphenyl)-2H-benzotriazol-2-yl]-1-cyano-1-methylethyl}-4-trifluoromethoxybenzamide | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)C1=CC=C(C=C1)C(F)(F)F | C25H16ClF6N5O2
